US06602884B2
101.66 g of methyl 1-(tert-butyloxycarbonyl)-4-oxopiperidine-3-carboxylate were added, under an inert atmosphere and at a temperature close to 20° C., to 2.156 liters of a saturated aqueous solution of ammonium chloride and of THF (10/1 by volume) of THF. 34.73-cm3 of allyl bromide were then added, followed by 77.51 g of zinc while maintaining the temperature below 30° C. A solution of 69.47-cm3 of allyl bromide in 50-cm3 of THF was then poured in dropwise. After stirring for 3 hours at a temperature close to 20° C., the reaction was incomplete. 77.51 g of zinc were again added and then 104-cm3of allyl bromide were poured in dropwise while the temperature was maintained below 30° C. The stirring was maintained at a temperature close to 20° C. for 15 hours, after which the reaction was still incomplete. 35 g of zinc were again added and then 55-cm3 of allyl bromide were poured in dropwise while the temperature was maintained below 30° C. The stirring was maintained at a temperature close to 20° C. for 4 hours, after whichthe reaction was still incomplete. 10 g of zinc were again added and then 25-cm3 of allyl bromide were poured in dropwise while the temperature was maintained below 30° C. The stirring was maintained at a temperature close to 20° C. for 2 hours. The reaction mixture was taken up in 900-cm3 of a 1 N HCl solution and 2 liters of ethyl ether and filtered on sintered glass. The filtrate was washed with 3 times 500-cm3 of etyl ether. The organic phase was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to dryness under reduced pressure (5 kPa). A yellow oil was obtained, which was purified by chromatography, under a nitrogen pressure of 50 kPa, on a column of silica gel (particle size 20-45 μ; diameter 12 cm; height 60 cm), eluting with a mixture of cyclohexane-ethyl acetate (80/20 by volume) and collecting 200-cm3 fractions. Fractions 51 to 75 were combined and then concentrated. 63.5 g of methyl 1-(tert-butyloxycarbonyl)-4-allyl-4-hydroxypiperidine-3-carboxylate were obtained in the form of a light yellow oil.

reactant | methyl 1-(tert-butyloxycarbonyl)-4-oxopiperidine-3-carboxylate | 101.66 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OC | C12H19NO5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | allyl bromide | 34.73-cm3 | C(C=C)Br | C3H5Br
reactant | allyl bromide | 69.47-cm3 | C(C=C)Br | C3H5Br
reactant | allyl bromide | 55-cm3 | C(C=C)Br | C3H5Br
reactant | allyl bromide | 25-cm3 | C(C=C)Br | C3H5Br
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 50-cm3 | C1CCOC1 | C4H8O
catalyst | zinc | 77.51 g | [Zn] | Zn
catalyst | zinc | 77.51 g | [Zn] | Zn
catalyst | zinc | 35 g | [Zn] | Zn
catalyst | zinc | 10 g | [Zn] | Zn
solvent | ethyl ether | 2 liters | C(C)OCC | C4H10O
product | methyl 1-(tert-butyloxycarbonyl)-4-allyl-4-hydroxypiperidine-3-carboxylate | 63.5 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)CC=C)C(=O)OC | C15H25NO5
